US04742052
A solution of N-p-nitrobenzyloxycarbonyl-4-p-toluenesulfonyloxymethylpiperidine (3.72 g) in dry dimethylformamide (10 ml) was added to a solution of sodium thioacetic acid (1 g) prepared from thioacetic acid and sodium hydride in dry dimethylformamide (10 ml). The reaction mixture was stirred at room temperature for 4 hours, diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give a residue which was then purified by silica gel column chromatography to give N-p-nitrobenzyloxycarbonyl-4-acetylthiomethylpiperidine.

reactant | N-p-nitrobenzyloxycarbonyl-4-p-toluenesulfonyloxymethylpiperidine | 3.72 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C21H24N2O7S
reactant | sodium thioacetic acid | 1 g | C(C)(=S)O.[Na]
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-p-nitrobenzyloxycarbonyl-4-acetylthiomethylpiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)CSC(C)=O)C=C1 | C16H20N2O5S
